US07572921B2
To a stirred ice-cooled solution of triphenylphosphine in 10 mL of CH2Cl2 was added dropwise a solution of bromine in 5 ml of CH2Cl2. After the reaction mixture was stirred at room temperature for 30 min and cooled at ice bath temperature, a solution of the above (3-chloro-5-iodo-phenyl)-methanol in 15 ml of CH2Cl2 was added dropwise. The reaction mixture was stirred 0° C. for another 1 h and concentrated. The residue was washed with hexane several times and the combined hexane layer was concentrated to give 1-bromomethyl-3-chloro-5-iodo-benzene (1.2 g, 97%).

reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | BrBr | Br2
reactant | (3-chloro-5-iodo-phenyl)-methanol | ClC=1C=C(C=C(C1)I)CO | C7H6ClIO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 1-bromomethyl-3-chloro-5-iodo-benzene | 1.2 g, 97% | BrCC1=CC(=CC(=C1)I)Cl | C7H5BrClI
